US09447006B2
A 50 mL RBF flask was charged with (R,R,R)-5-allyl-2,8-dimethyl-2-(4,8,12-trimethyl-tridecyl)-chroman-6-ol (Ex-1E-3) (280 mg, 0.63 mmol) and ACN (14 mL), then cooled to 0° C. A solution of CAN (710 mg, 1.30 mml) in water (2 mL) was added dropwise over 1 min to the reaction resulting in a bright orange solution. After 15 min, the reaction was deemed complete (TLC—5:1 hept:EtOAc). The reaction was extracted with MTBE (3×15 mL). The combined MTBE layers were dried over Na2SO4, filtered and concentrated by rotary evaporation to yield (R,R,R)-2-allyl-3-(3-hydroxy-3,7,11,15-tetramethyl-hexadecyl)-5-methyl-[1,4]benzoquinone (Ex-1E-4) as an orange oil (270 mg, 96%). 1H NMR (400 MHz, CDCl3) δ (ppm): 6.59 (d, J=1.4 Hz, 1H), 5.82 (ddt, 1H), 5.10-5.06 (m, 2H), 3.27 (d, J=6.2 Hz, 2H), 2.60-2.56 (m, 2H), 2.06 (s, 6H), 1.59-1.04 (m, 21H), 0.89-0.85 (m, 15H).

reactant | (R,R,R)-5-allyl-2,8-dimethyl-2-(4,8,12-trimethyl-tridecyl)-chroman-6-ol | 0.63 mmol, 280 mg | C(C=C)C1=C2CC[C@](OC2=C(C=C1O)C)(CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)C | C30H50O2
reactant | ACN | 14 mL | C(C)#N | C2H3N
reactant | CAN | 710 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 2 mL | O | H2O
product | (R,R,R)-2-allyl-3-(3-hydroxy-3,7,11,15-tetramethyl-hexadecyl)-5-methyl-[1,4]benzoquinone | 270 mg, 96% | C(C=C)C=1C(C=C(C(C1CC[C@](CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)(C)O)=O)C)=O | C30H50O3
